Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Diovan / Renagel
 
Attending: ___
 
Chief Complaint:
failure to thrive, altered mental status 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ hx of ESRD s/p renal transplant on tacro and MMF, 
paroxysmal A fib, endocarditis s/p prosthetic AVR/MVR, recent 
admission for MSSA septic R knee arthritis s/p washout who 
presents as a transfer from ___ for worsening altered 
mental status, electrolyte abnormalities, and failure to thrive. 


Pt was first hospitalized at ___ in mid ___ for a septic knee, 
and underwent washout. Initially treated with cefazolin/rifampin 
with joint retention strategy, rifampin later d/c'ed given 
significant drug interactions with warfarin/tacro. Re-admitted 
to ___ on ___ for AMS, hypoxemia, shoulder and knee pain. 
Found to have pulmonary edema thought to be ___ fludricort 
administration for heparin-induced hyperkalemia/hyponatremia 
prior to admission. Oxygen requirement improved with diuresis. L 
shoulder and L knee were noted to have effusions, and no 
definitive dx was made after workup by rheum. He was followed by 
ID, who suggested patient switch from cefazolin to levofloxacin 
suppresion for six months. Electrolyte abnormalities included 
hyperkalemia thought to be ___ tacrolimus toxicity, hyponatremia 
___ known history of SIADH, and hypercalemia ___ tertiary 
hyperparathyroidism. Also found to have BK viremia. Pt was 
discharged back to ___ on ___ where he developed 
worsening delirium, persistent electrolyte abnormalities 
(hyponatremia, hyperkalemia, hypercalcemia), and decreased PO 
intake with recent 5 pound weight loss in past 5 days 
(119-->114). He was subsequently transferred back to the floor 
as a direct admit. 

Here, he is AxO x3, and states that he has an appetite but 
doesn't enjoy the foot at ___. Family reports mental 
status has worsened over past week with patient rambling more, 
and making non-sequitor statements. Also endorse that he only 
appears to eat if they are sitting there watching him. He 
endorses chills, night sweats though denies nausea, vomiting, 
urinary or bowel symptoms, fevers, chest pain, dyspnea. Does 
feel that he is more confused than he was before his first 
admission for knee washout.  Patient denies cough, but family 
does report noticing cough today.

 
Past Medical History:
MEDICAL & SURGICAL HISTORY:  
- ESRD due to ANCA vasculitis s/p LURT in ___  
- Paroxysmal atrial fibrillation  
- Subacute bacterial endocarditis with septic emboli to brain 
s/p AVR and MVR at ___ in ___. On Coumadin.  
- Hypertension  
- Rheumatoid arthritis  
- Hyperparathyroidism  
- Neuropathy in hands and feet  
- Right knee replacement in ___  
- Hernia repair in ___  
- SCC left chin resected in ___ 
- s/p septic R knee with washout

 
Social History:
___
Family History:
Mother: HTN
Father: ___ thyroidis, RA
Brother: solitary Kidney
Sister: handicapped, severe obesity
Aunt: DM

 
Physical ___:
ADMISSION PHYSICAL EXAM
VS: T 98.2 BP 90/68 HR 96  RR 20 O2 97% RA 
GEN: Cachectic; Alert, lying in bed, no acute distress  
HEENT: Soft tissue mass on medial R clavicle; Tacky MM, 
anicteric sclerae, no conjunctival pallor  
NECK: Supple without LAD  
PULM: Coarse breath sounds R>L; Generally CTA b/l without wheeze 
or rhonchi  
COR: irregular rhythm; (+)S1/S2 , + murmur 
ABD: Cachectic; Soft, non-tender, non-distended, no allograft 
tenderness or bruit  
EXTREM: Large effusion L knee, small effusion L shoulder; 
otherwise, warm, well-perfused, no edema  
SKIN: Stg 1 pressure ulcer on coccyx
NEURO: A+O x 3, attention, short term memory, fund of knowledge, 
calculation intact; CN II-XII grossly intact, motor function 
grossly normal  

DISCHARGE PHYSICAL EXAM
Vitals: Tm 98.6, Tc 97.8, BP 120/72 (85-120/56-86), P 79-94, RR 
20, 95-100% RA. 
GEN: Cachectic; alert, lying in bed, no acute distress
HEENT: MMM; anicteric sclerae  
NECK: Soft tissue mass on medial R clavicle, supple  
PULM: CTA b/l without wheeze or rhonchi  
COR: irregular rhythm; mechanical clicks heard, 
crescendo-decrescendo murmur heard best at RUSB  
ABD: Cachectic; soft, nontender, nondistended  
EXTREM: resolving L knee effusion; otherwise, warm, 
well-perfused, no edema  
SKIN: Stg 1 pressure ulcer on coccyx, no erythema or visible 
lesion or ulcer of scrotum or perianal region
NEURO: A+O x 2; CN II-XII grossly intact, motor function grossly 
normal, dysarthric

 
Pertinent Results:
ADMISSION LABS
___ 01:36PM BLOOD WBC-5.7 RBC-3.65*# Hgb-8.9* Hct-30.2* 
MCV-83 MCH-24.4* MCHC-29.5* RDW-17.3* Plt ___
___ 01:36PM BLOOD Neuts-84.6* Lymphs-6.2* Monos-7.4 Eos-1.3 
Baso-0.5
___ 01:36PM BLOOD ___ PTT-38.6* ___
___ 01:36PM BLOOD Glucose-107* UreaN-24* Creat-0.8 Na-133 
K-4.9 Cl-101 HCO3-28 AnGap-9
___ 01:36PM BLOOD ALT-18 AST-24 LD(LDH)-304* AlkPhos-185* 
TotBili-0.3
___ 01:36PM BLOOD Albumin-2.5* Calcium-10.0 Phos-2.8 Mg-1.6
___ 01:36PM BLOOD TSH-2.4
___ 01:55PM BLOOD ___ pO2-44* pCO2-59* pH-7.35 
calTCO2-34* Base XS-4

PERTINENT ADDITIONAL LABS
___ 07:49AM BLOOD LD(LDH)-277*
___ 04:39AM BLOOD VitB12-805
___ 01:36PM BLOOD TSH-2.4
___ 07:49AM BLOOD PTH-124*
___ 07:49AM BLOOD 25VitD-39
___ 06:49AM BLOOD Cortsol-19.4
___ 02:58PM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE 
HBcAb-NEGATIVE
___ 01:36PM BLOOD CRP-44.9*
___ 02:58PM BLOOD HIV Ab-NEGATIVE
___ 09:14AM BLOOD tacroFK-4.6*
___ 05:11PM BLOOD tacroFK-6.4
___ 06:44AM BLOOD tacroFK-6.1
___ 02:58PM BLOOD HCV Ab-NEGATIVE

CALORIE COUNTS
___ kcal, 39g protein
___ no slips saved
___ kcal, 101g protein
___ kcal, 75g protein  
___ kcal, 53.1g protein
___ kcal, 19.1g protein

DISCHARGE LABS
___ 06:52AM BLOOD WBC-5.5 RBC-3.42* Hgb-8.7* Hct-28.8* 
MCV-84 MCH-25.3* MCHC-30.0* RDW-22.6* Plt ___
___ 06:52AM BLOOD Plt ___
___ 06:52AM BLOOD Glucose-83 UreaN-36* Creat-0.9 Na-137 
K-4.6 Cl-103 HCO3-26 AnGap-13
___ 06:52AM BLOOD Calcium-10.3 Phos-3.3 Mg-1.8
___ 06:52AM BLOOD Cyclspr-41*

MICRO
Blood Culture (___): No Growth
Urine Culture (___): < 10 000 organisms

IMAGING
Head CT w/contrast (___)
1. No acute intracranial hemorrhage, mass effect or enhancing 
lesion.  
2.  Small amount of fluid in the mastoid air cells inferiorly on 
both sides. 
3.  Mottled density of the skull bones - can relate to a 
combination of osteopenia, prominence of the vascular structures 
within or marrow changes, similar to prior. 
4.  Extensive intra and extracranial vascular calcification as 
before. 

Chest AP (___)
Mild pulmonary edema has improved since ___.  Moderate 
cardiomegaly is chronic.  Patient has had median sternotomy and 
aortic and mitral valve replacements.  No appreciable pleural 
abnormality.  Incidental note is made of an azygos fissure, a 
common anatomic variant. 

 
Brief Hospital Course:
___ w/ hx of ESRD s/p renal transplant on cyclosporine and MMF, 
paroxysmal A fib on coumadin, endocarditis s/p AVR/MVR, recent 
admission for hypoxemia, altered mental status s/p MSSA septic R 
knee arthritis washout who was managed for altered mental status 
and failure to thrive. 

# AMS: AMS was thought to be secondary to delirium given waxing 
and waning presentation. Possible etiologies of AMS initially 
included infectious vs metabolic (history of many electrolyte 
abnormalities) vs structural (hospital, ___ vs 
medication-induced (olanzapine, levofloxacin). Patient's mental 
status waxed and waned over hospital. Full infectious workup was 
unremarkable aside from mild BK viremia, which renal felt was 
non-contributory. Patient was found to have hypercalcemia, 
though hypercalcemia of 11.2 was not thought to be high enough 
to cause altered mentation. Vitamin D level returned normal. 
Patient's home Cinacalcet dose was increased. Olanzapine was 
discontinued per psych recs. Renal adjusted transplant 
medications to minimize neurotoxicity: tacrolimus was switched 
to cyclosporine. Structural causes as a result of the patient 
being in the hospital ___ for the past month and a half 
are likely contributing. CT head revealed fluid in the mastoid 
cells though did not elucidate any pathology that may be 
contributing to patient's mental status. Patient's mental status 
improved near the end of his hospital course.

#Failure to Thrive 
Patient had experienced 5lb weight loss in 5 days (119-->114) 
before presenting to the floor. Wait loss likely due to 
significantly decreased PO intake. Had Dohboff previously though 
pulled and refused replacement. Patient endorsed loss of 
appetite due to food quality at ___. Initial differential 
for failure to thrive included infection vs ongoing delirium vs 
depression contributing to decreased PO intake. Patient admitted 
that he was depressed to multiple team members. Of note, patient 
was sent to ___ was for evaluation for G tube placement. ID was 
consulted and concluded that an infectious source was unlikely. 
Patient was started on nystatin solution. Psych increased the 
patient's Mirtazapine to 15mg and then 30mg qhs to help with 
sleep and appetite. Ortho came by and cut away a retained suture 
on patient's right knee, and a repeat radiograph showed no 
changes from prior. Ortho did not feel knee was nidus for 
infection. GI was consulted, and recommended doing calorie 
counts, which revealed consumption of around 1300 calories per 
day. The patient was initially amenable to G tube, however soon 
thereafter began refusing it. Given refusal, G tube placement 
was deferred, and patient was placed on Megace with plan to d/c 
to rehab.

# Hyponatremia: Patient's electrolytes were wnl upon 
presentation to floor. The patient has a history of SIADH and 
had presented on a fluid restriction. Renal recommended 
liberalizing restriction in an attempt to get the patient to eat 
more. The patient subsequently developed a mild hyponatremia, 
which resolved on ___. Patient's malnourished state is likely 
also contributing to hyponatremia. Given the importance of PO 
intake, and very mild hyponatremia, the patient was kept off of 
fluid restriction, and his sodium was watched. Hyponatremia 
subsequently self-resolved.

#Hypoaldosteronism: Patient developed hypotension with 
concomitant hyperkalemia and hyponatremia in the late afternoon 
on ___. Likely secondary to heparin drip induced hypoaldo 
state. Patient was placed on 0.2mg fludricort with subsequent 
normalization of lab values and pressures.

# Periorbital/perinasal rash with pruritus: Patient reports that 
his eyes, nose and the area around it are chronically itchy. 
Erythematous papules on perinasal/periorbital area, mild L eye 
purulent discharge and conjunctivits. Differential included 
allergic contact dermatitis vs atopic dermatitis vs nutritional 
deficiency. Rash was treated with sarna lotion and 
triamcinolone. Conjunctivitis resolved without treatment.

# L knee effusion: Chronic L knee effusion, was worked up by 
rheum during previous admission. No obvious etiology though not 
thought to be RA/OA, a crystalline arthropathy, or septic. Was 
placed on levofloxacin for six months during prior admission in 
___. Levofloxacin was continued. 

Chronic Issues
# Anemia: Patient presented with chronic mildly 
microcytic/normocytic anemia. Anemia likely secondary to 
combination of nutritient deficiency from poor PO intake (Fe, 
folate, B12) +/- GI losses given h/o hemorrhoids and prior 
supratherapeutic INR. H and H during hospital course was at 
baseline. Patient's home iron was continued. 

# Renal Transplant ___ LURT: Patient was continued on 
mycophenolate and tacrolimus. Tacrolimus levels ranged from ___ 
during hospitalization. Tacrolimus was switched to cyclosporine 
on ___ in an attempt to minimize neurotoxicity. 

# AVR/MVR ___, paroxysmal afib. Patient is usually 
anticoagulated on coumadin. Was placed on a heparin drip at 
___ prior to admission due to subtherapeutic INR. Coumadin 
was held upon admission in case patient required G tube. It was 
restarted on ___. Patient was transitioned from his heparin 
drip to ___ for rehab placement.

# Tertiary Hyperparathyroidism: Patient's Cinacalcet dose was 
increased to 90mg qd given hypercalcemia i/s/o tertiary 
hyperparathyroidism.

# OSA, Sleep Disturbance: Patient's Mirtazapine dose was 
increased to 30mg qhs per psych.

# Dry Skin: Chronic issue, managed with continuation of home 
hydrocerin, ketoconazole, sarna lotion, triamcinolone. 

Transitional Issues
-transplant follow up given change in immunosuppressive regimen 
-fludricort will need to be tapered once patient is off of 
heparin drip
-rehab placement 
-goals of care discussion 
-need to ensure nutritional needs are met 
-follow up with neuro to evaluate potential contribution of 
chronic vascular changes seen on head CT 
-will need cyclosporine levels checked on ___ and faxed to 
___ at ___ (target level 100)

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H:PRN fever 
2. Alendronate Sodium 70 mg PO QSAT 
3. Bisacodyl 10 mg PR QHS constipation 
4. Cinacalcet 60 mg PO DAILY 
5. Hydrocerin 1 Appl TP TID:PRN dry skin 
6. Ketoconazole Shampoo 1 Appl TP ASDIR prn dry skin 
7. Lidocaine 5% Patch 1 PTCH TD QAM 
8. Lidocaine 5% Patch 1 PTCH TD QPM 
9. Mycophenolate Mofetil 500 mg PO BID 
10. Sarna Lotion 1 Appl TP QID:PRN itching 
11. Senna 17.2 mg PO BID 
12. Tacrolimus 3 mg PO Q12H 
13. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID:PRN dry 
skin 
14. Warfarin 5 mg PO DAILY16 
15. Levofloxacin 500 mg PO Q24H 
16. Famotidine 20 mg PO DAILY 
17. Docusate Sodium (Liquid) 100 mg PO BID 
18. Lactinex (lactobacillus acidoph-L.bulgar) 100 million cell 
oral BID 
19. Artificial Tears 2 DROP BOTH EYES PRN dry eyes 
20. Ferrous Sulfate 325 mg PO DAILY 
21. Magnesium Oxide 800 mg PO TID 
22. Meladox (melatonin) 10 mg oral QHS 
23. OLANZapine 2.5 mg PO TID 
24. Mirtazapine 7.5 mg PO QHS 
25. Thiamine 100 mg PO DAILY 
26. Ondansetron 4 mg PO Q6H:PRN nausea 
27. Simethicone 80 mg PO QID:PRN dyspepsia 

 
Discharge Medications:
1. Alendronate Sodium 70 mg PO QSAT 
2. Bisacodyl 10 mg PR QHS constipation 
3. Cinacalcet 60 mg PO DAILY 
4. Docusate Sodium (Liquid) 100 mg PO BID 
5. Famotidine 20 mg PO DAILY 
6. Ferrous Sulfate 325 mg PO DAILY 
7. Hydrocerin 1 Appl TP TID:PRN dry skin 
8. Ketoconazole Shampoo 1 Appl TP ASDIR prn dry skin 
9. Levofloxacin 500 mg PO Q24H 
10. Lidocaine 5% Patch 1 PTCH TD QAM 
11. Lidocaine 5% Patch 1 PTCH TD QPM 
12. Magnesium Oxide 800 mg PO TID 
13. Mirtazapine 30 mg PO QHS 
14. Ondansetron 4 mg PO Q6H:PRN nausea 
15. Sarna Lotion 1 Appl TP QID:PRN itching 
16. Simethicone 80 mg PO QID:PRN dyspepsia 
17. Thiamine 100 mg PO DAILY 
18. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID:PRN dry 
skin 
19. Fludrocortisone Acetate 0.2 mg PO DAILY 
20. Megestrol Acetate 800 mg PO DAILY 
21. Senna 17.2 mg PO BID 
22. Meladox (melatonin) 10 mg oral QHS 
23. Artificial Tears 2 DROP BOTH EYES PRN dry eyes 
24. Lactinex (lactobacillus acidoph-L.bulgar) 100 million cell 
oral BID 
25. Mycophenolate Mofetil 500 mg PO BID 
26. Acetaminophen 1000 mg PO Q8H:PRN fever 
27. Warfarin 5 mg PO DAILY16 
28. CycloSPORINE (Neoral) MODIFIED 125 mg PO Q12H 
29. Enoxaparin Sodium 51 mg SC BID bridge for valve 
Start: Today - ___, First Dose: Next Routine Administration 
Time 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary
-delirium
-failure to thrive/severe malnutrition

Secondary
-paroxysmal a fib
-subacute bacterial endocarditis
-aortic valve replacement, mitral valve ___
-hypertension
-rheumatoid arthritis
-Hyperparathyroidism
-R knee replacement ___ c/m MSSA septic arthritis ___

 
Discharge Condition:
Stable 
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your hospitalization 
at ___. You were admitted to the hospital for some altered 
thinking and poor nutritional intake. Our testing revealed that 
you did not have an infection, and an imaging study of your 
brain did not show anything concerning. Your labs were all 
within normal limits. A discussion was had between you and 
multiple different teams regarding potential G tube placement 
given your malnourished state. It was ultimately concluded not 
to go forward with the tube, and you were discharged to a 
rehabilitation facility. 

We wish you the best!
-___ Team 
 

 
Followup Instructions:
___